Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weakness, SOB 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is an ___ year old male w/ PMHx CAD s/p CABG in ___ 
w/ multiple MIs/stents post, PPM/ICD placement in ___, Prostate 
Ca in remission, lymphoma, sarcoma, metastatic papillary renal 
cell CA to the lungs, ___ disease, prior GI bleed in 
___ who presents with weakness and shortness of breath for 1 
week. The patient had been doing fair for the past couple months 
when he noted last week he was becoming weaker, to the point he 
became unable to walk well. He also noted shortness of breath at 
the same time, to the point that walking to his bathroom took 
___ minutes to recover. He was seen by his PCP ___ ___ who noted 
new scrotal edema and obtained an abdominal ultrasound, which 
showed bulky mediastinal adenopathy that maybe compressing the 
IVC. Today, he noted an acute worsening of his symptoms which 
prompted his coming into the ED.  

In the ED, initial vitals:98 39 112/61 20 98% ra. Exam notable 
for L>R edema (chronic per pt), lungs clear, JVP ~9, 
bradycardic, no m/r/g, alert, warm extremities per the 
cardiology consultant. Labs showed stable CBC, hyponatremia to 
130, Hyperkalemia to 6.1, BUN/Cr of 91/3.8 (baseline ___, 
bicarb of 16. His EKG showed initial rate of 40 with wide QRS, 
EP was consulted who increased his rate to the ___ with 
improvement in his SBP from the ___ to 110s. He was also given 
calcium, bicarbonate, and kayexalate.  

On transfer, vitals were:70 14 97%RA 115/78  

On arrival to the MICU, the patient has no complaints. He is 
able to retell his story without difficulty. He states he has 
had decreased PO intake but has tried to keep up with his fluid 
intake. He does note he has had decreased urine output - usually 
urinates every 2 hours but this has been decreased of late. Has 
had chronic cough since ___ as well. 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain, chest pressure, palpitations, or 
weakness. Denies nausea, vomiting, diarrhea, constipation, 
abdominal pain, or changes in bowel habits. Denies dysuria, 
frequency, or urgency. Denies arthralgias or myalgias. Denies 
rashes or skin changes.  
 
Past Medical History:
- stage IV CKD  
- CAD s/p CABG ___, IMI ___ and ___, s/p multiple PCI  
- pacer/AICD placement in ___ for recurrent VT
- Prostate Cancer in remission with stable PSA, followed by 
___  
- renal papillary carcinoma with known pulmonary and 
retroperitoneal involvement on staging in ___  
- lymphoma  
- left leg sarcoma s/p two courses of palliative radiation 
therapy  
- multiple pulmonary nodules, likely metastatic  
- Lower extremity venous stasis  
- ___ Disease  
- Gallstones  
- Gout  
- hypertension  
- Melena: ___, EGD showed mild gastritis, colonoscopy showed 3 
sessile nonbleeding polyps in ascending colon; episode of GI 
bleed requiring 20U pRBC ___  
 
Social History:
___
Family History:
Father died at age ___ from embolism. No history of early CAD,  
sudden cardiac death. No DM.
 
Physical Exam:
On Admission:
General: Alert, oriented, elderly ill appearing male  
HEENT: Sclera anicteric, dry MM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP up to 9cm, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, ___, bowel sounds present, 
hepatomegaly  
GU: no foley  
Ext: warm, well perfused, 1+ pulses, 2+ pitting edema to knees 
bilaterally, nodule of left knee, brawny skin changes L>R
Neuro: ___ intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred, ___ intact, 
can do months of year backwards 

On Discharge:
Vitals: 97.5 88/51 69 19 100%RA 
I/O yest out 1000+, today out 150+ 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP elevated to the angle of the jaw at 90 degrees
Lungs: decreased b/l basilar crackles, + diffuse mild wheezing, 
good air movement
CV: Regular rate and rhythm, normal S1 + S2, + soft systolic 
murmur at RUS and LUS boarders, rubs, gallops  
Abdomen: soft, ___, mildly enlarged which the patient 
says is baseline, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, ___ pitting edema b/l  
 
Pertinent Results:
ADMISSION LABS:

___ 02:00PM   ___ UREA ___ 
___ TOTAL ___ ANION 
___
___ 02:00PM   ___
___ 02:00PM   ___
___ 02:00PM   ___
___ 02:00PM   CK(CPK)-47
___ 02:00PM   ___ 
___
___ 02:00PM   ___ 
___
___ 02:00PM   PLT ___
___ 02:02PM   ___ K+-5.9*
___ 03:45PM URINE  ___ 
___ 
___
___ 03:45PM URINE  ___ 
___
___ 03:45PM URINE  ___
___ 08:17PM   ___ TOTAL 
___ BASE XS--5
___ 08:17PM   K+-5.6*
___ 07:59PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 07:59PM   ___
___ 04:53PM   K+-5.8*

STUDIES:
CXR: Extensive metastatic disease.  Mild cardiomegaly.  Patchy 
left 
basilar opacity, although most likely atelectasis. 

RENAL US ___
No evidence of hydronephrosis. 
Patent main renal vein and renal arteries.  
Limited assessment of the bilateral arcuate arteries within the 
upper, mid and lower pole secondary to motion.  

EKG: V paced at 40bpm, wide QRS, LBBB, LAD - compared to prior, 
rate is slower and QRS duration is longer. 

MICRO: 
URINE CULTURE (Final ___:    NO GROWTH
BCx -- pending

DISCHARGE LABS:
___ 06:00AM BLOOD ___ 
___ Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD ___ 
___
___ 06:00AM BLOOD ___ssessment and Plan: ___ year old male w/ PMHx CAD s/p CABG in 
___ w/ multiple MIs/stents post, history of recurrent VT, 
PPM/ICD placement in ___, Prostate Ca in remission, lymphoma, 
sarcoma, metastatic papillary renal cell CA to the lungs, 
___ disease, prior GI bleed in ___ who p/w SOB, 
weakness likely ___ bradycardia, renal failure, and 
hyperkalemia.

# acute on chronic renal failure: With patient's history of 
decreased PO intake, decreased urination, ___ highly 
suspected. Given history of renal cell carcinoma and lymphoma 
and bulky lymphadenopathy in the abdomen compressing the SVC, 
considered obstructive uropathy or ischemia to the kidneys as 
well, which was ruled out by renal US. Cr improved to 2.8 after 
some gentle IVF boluses and improved PO intake. Renal followed 
the patient in house. He was started on bicarb tabs for low 
bicarb in the setting of acute renal failure. He was continued 
on bicarb and metoprolol. ACEI and spironolactone were held 
given hyperkalemia. 
- the patient will have chem7 checked on ___ and faxed to PCP 
to monitor renal function
- if renal failure stabilizes and bicarb normalizes, consider 
stopping bicarb tabs outpatient
- outpatient follow up with renal

# Hyperkalemia: Likely ___ acute on chronic renal failure. 
Quinapril and spironolactone were held. EKG with QRS widening 
(in the setting of being ___. Got kaexylate, bicarb, 
calcium, K normalized with improved renal function.

# Bradycardia, with pacemaker for h/o recurrent VT: On admission 
the patient was bradycardic with pacer firing in the ___. This 
likely triggered his SOB sx on presentation, especially since he 
reports that his SOB resolved after his pacemaker was 
reprogrammed to fire at 70 bpm. hyperK (see above) likely led to 
widened QRS and the slow HR which triggered the patient to 
become bradycardic and the pacer to fire at 40 bpm. The 
pacemaker is set at a low rate due to the patients h/o recurrent 
monomorphic VT. On ___ the patient's pacemaker was 
___, and his intrinsic rhythm had been restored, so 
backup pacemaker rate was ___ to 40 and the patient was 
discharged in his intrinsic rhythm.
- outpatient follow up with cardiology and electrophysiology
- amiodarone was continued at 400 mg daily. there was some 
confusion regaurding correct dosing, it appears his dose was 
increased from 200 to ___ office in ___. the patient was instructed to follow up regaurding correct 
dosing.
  
# CAD s/p CABG and stents - stable, not having any chest pain. 
Troponin in the ED was 0.05 in the setting ___ and his 
symptoms are unlikely to be related to acute ischemia.  cont 
torsemide, metoprolol, ASA, plavix. held quinapril, 
spironolactone

# Chronic sCHF - Total body volume overloaded on exam, although 
may have been intravascularly depleted on admission given ___ 
improvement with IVF. Has chronic ___ edema that may be related 
to IVC compression vs total body volume increase. His lungs are 
clear and elevated JVP may be related to TR and PR seen on last 
echo. Cont torsemide, metoprolol, atorvastatin. held ACEI, 
spironolactone. 

# H/o Prostate Ca in remission, lymphoma, sarcoma, metastatic 
papillary renal cell CA to the lungs: per outpatient onc notes, 
wishes to focus on quality of life at this time. 

# ___ disease - Continue sinemet ___ TID

# Gout - stable. Renally dosed allopurinol.

# HLD - restart atorvastatin

# GERD - continue ranitidine

# BPH - cont finasteride 
 
#  mildly positive UA: he got 1 dose of CTX which was stopped 
due to low clinical suspicion for UTI.
 
#  macrocytic anemia: decreased today in the setting of IVF. no 
clinical signs of bleeding.

# Med Rec: completed this AM
 
# CODE:  Full, confirmed

# CONTACT:  son ___, friend ___ 
___

# ___ CA- in remission. No evidence of obstruction on 
recent imaging and bladder scan in house.
 
# Code: Full 

TRANSITIONAL ISSUES
- the patient will have chem7 checked on ___ and faxed to PCP 
to monitor renal function
- if renal failure stabilizes and bicarb normalizes, consider 
stopping bicarb tabs outpatient
- outpatient follow up with renal
- held quinapril and spironolactone on discharge, may consider 
restarting as an outpatient if indicated
- outpatient follow up with cardiology and electrophysiology
- amiodarone was continued at 400 mg daily. there was some 
confusion regaurding correct dosing, it appears his dose was 
increased from 200 to ___ (EP 
specialist) in ___. the patient was instructed to follow up 
regaurding correct dosing.
- outpatient follow up with PCP
- outpatient follow up with Heme/onc
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 400 mg PO DAILY 
2. ___ 1 TAB PO TID 
3. Atorvastatin 60 mg PO HS 
4. Allopurinol ___ mg PO DAILY 
5. Torsemide 2.5 mg PO DAILY 
6. Ranitidine 150 mg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Aspirin 325 mg PO DAILY 
9. Finasteride 5 mg PO DAILY 
10. Quinapril 2.5 mg PO DAILY 
11. Spironolactone 12.5 mg PO DAILY 
12. Fish Oil (Omega 3) 1000 mg PO DAILY 
13. coenzyme Q10 *NF* 200 mg Oral daily 
14. Clopidogrel 75 mg PO DAILY 
15. Vitamin D 1000 UNIT PO DAILY 
16. Multivitamins 1 TAB PO DAILY 
17. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
18. Mupirocin Cream 2% 1 Appl TP DAILY 
both legs 
19. Clotrimazole Cream 1 Appl TP DAILY 
both legs 
20. Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY both 
legs 
21. imiquimod *NF* 5 % Topical 3X/WEEK (___) apply to black 
eschar on L foot 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 60 mg PO HS 
4. ___ 1 TAB PO TID 
5. Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY both 
legs 
6. Clopidogrel 75 mg PO DAILY 
7. Clotrimazole Cream 1 Appl TP DAILY 
8. Finasteride 5 mg PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 
10. imiquimod *NF* 5 % Topical 3X/WEEK (MWF) apply to black 
eschar on L foot 
11. Multivitamins 1 TAB PO DAILY 
12. Mupirocin Cream 2% 1 Appl TP DAILY 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Ranitidine 150 mg PO DAILY 
15. Torsemide 2.5 mg PO DAILY 
16. Metoprolol Succinate XL 50 mg PO DAILY 
17. Sodium Bicarbonate 650 mg PO TID 
RX *sodium bicarbonate 650 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0
18. coenzyme Q10 *NF* 200 mg Oral daily 
19. Vitamin D 1000 UNIT PO DAILY 
20. Outpatient Lab Work
Please check chem7 on ___ and fax results to PCP ___. 
___ at fax # ___ (phone number is ___
21. Amiodarone 400 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
1. Acute renal failure
2. hyperkalemia
3. bradycardia

Secondary diagnosis
1. metastatic renal call carcinoma
2. history of ventricular tachycardia
3. chronic systolic congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You were admitted for shortness of breath, and 
you were found to have acute renal failure, high potassium, and 
a slow heart rate. Your acute renal failure and potassium got 
better with fluids and eating well. Your heart rate improved 
when your pacemaker was reprogrammed to beat at 70 beats per 
minute.

It is important that you take all medications as prescribed, and 
keep all follow up appointments.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___